data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N:21](N=C1CCCCC1)S(=O)(=O)C2=CC=C(C=C2)C.[Li:11][CH2:10]CCC>>[H:20][CH2:10]CCC.[Li+:11].CC1=CC=C(C=C1)S(=O)(=O)[N-:21]N=C2CCCCC2 10,11=10,20;20,21=21
C1C=C([N:10]([C:20]1(C2=CC=CC=C2)[OH2+:21])CC3=CC=CC=C3)C4=CC=CC=C4.CC(=O)[O-].O>>C1C=C([N+:10](=[C:20]1C2=CC=CC=C2)CC3=CC=CC=C3)C4=CC=CC=C4.[OH2:21].CC(=O)[O-].O 10=20;20,21=21
C[C:20]([O-:10])(OC)[O:21]C(=O)CCC=O>>C[C:20](=[O:10])OC.C(CC(=O)[O-:21])C=O 10=20;20,21=21
C[S:10](C)(O)[Br:11]>>C[S+:10](C)O.[Br-:11] 10,11=11
CCCCCC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:10])[O:21]C(=O)C.CCN(CC)CC.CC(C)(C)O>>CCCCCC[C:20](=[O:10])[N+]1=CC=C(C=C1)N(C)C.CC(=O)[O-:21].CCN(CC)CC.CC(C)(C)O 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C1=CC=C(C=C1)C2C3=C(C=CC=C3)C(O2)(C4=CC=CC=C4)[OH:10].CO.C(=O)(C(F)(F)F)[O-].[Mg+]Br>>[H:20][OH+:10]C1(C2=C(C=CC=C2)C(O1)C3=CC=CC=C3)C4=CC=CC=C4.C(=O)(C(F)(F)F)[O-:21].CO.C(=O)(C(F)(F)F)[O-].[Mg+]Br 10=20;20,21=21
[H:20][OH+:21]C1=NC2CCC1CC=CC2.[OH-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-]>>[H:20][OH:10].C1CC2CC=CCC1C(=N2)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+].[Cl-] 10=20;20,21=21
CCN(CC)[C:20](=[O:21])C.CC#[C-:10]>>CCN(CC)[C:20](C)([C:10]#CC)[O-:21] 10=20;20,21=21
C[CH:20]=[NH+:21]C.[Br-:10]>>C[CH:20]([NH:21]C)[Br:10] 10=20;20,21=21
CC=CC[O-:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CC=CC[O:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
C1=CC2=C(C=C1)[C:13](=[CH:12][CH:11]=[CH:10]2)Br.O[S+:20](=O)=O>>C1=CC2=C(C=C1)[C+:13]([CH:12]=[CH:11][CH:10]2[S:20](=O)(=O)O)Br 10,11=10,20;12,13=11,12
C[N:10](C)[C:20]([OH2+:21])(O)OC>>C[N+:10](=[C:20](O)OC)C.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.COC1=CC2=C(C=C1)C(C3C2([N:10]=C(CC3)O)C4=CC=CC=C4)C(=O)OC>>[H:20][N+:10]1=C(CCC2C1(C3=C(C2C(=O)OC)C=CC(=C3)OC)C4=CC=CC=C4)O.CS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=C2C=CC=CC2=C([C+:22]1OC)Br)Br.[Br-:10]>>[H:20][Br:10].CO[C:22]1=[C:21](C=C2C=CC=CC2=C1Br)Br 10=20;20,21=21,22
[H:10][C:11]1(CCC(CC1CCC)CC(C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCC)CC(C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CO[C:20]1([OH+:21]CCO1)[NH2:10]>>CO[C:20](=[NH2+:10])OCC[OH:21] 10=20;20,21=21
[B:20]1(OC(C(O1)(C)C)(C)C)CC=CCCCC([OH+]C)OC.C(=O)(C(F)(F)F)[O-:10]>>[B-:20]1(OC(C(O1)(C)C)(C)C)(CC=CCCCC([OH+]C)OC)[O:10]C(=O)C(F)(F)F 10=20,
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)Br)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)Br 10=20;20,21=21,22;22,23=23,24
[H:20][C:21]12CC[O+:23]=[C:22]1C3=C(C=CC=C3)C(C2)(C=O)O.C[OH:10]>>[H:20][OH+:10]C.C1C[O:23][C:22]2=[C:21]1CC(C3=C2C=CC=C3)(C=O)O 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)[NH:10][CH:20](C2=COC3=C(C2=O)C=CC=C3)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=CC=C(C=C1)[NH+:10]=[CH:20]C2=COC3=C(C2=O)C=CC=C3.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CCC[CH:10]=[C:11](C1=C(C=CC(=C1)Br)O)[OH:12].C1CC([N+:21](=[CH:20]C2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-].O>>CCC[CH:10]([CH:20](C1=CC=C(C=C1)[N+](=O)[O-])[N:21]2CCCC2C3=NN=NN3)[C:11](=[OH+:12])C4=C(C=CC(=C4)Br)O.C(=O)(C(F)(F)F)[O-].O 10,11=10,20;20,21=21;12=11
CO[C:20](O)([O-:10])[Cl:21]>>CO[C:20](=[O:10])O.[Cl-:21] 10=20;20,21=21
C1=CC=C(C=C1)C(=O)O[C:11]2=[CH:10]C=CC=C2.[Br:20][Br:21]>>C1=CC=C(C=C1)C(=O)O[C+:11]2C=CC=C[CH:10]2[Br:20].[Br-:21] 10,11=10,20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C(F)(F)F.[N+:20](=O)=[O:21]>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[N+:20](=O)[O-:21])C(F)(F)F 10,11=10,20;20,21=21
CC=[S:10](C1=CC=CC=C1)[O:11]C(=O)C(F)(F)F.C1=CC=[NH+]C=C1>>CC=[S+:10]C1=CC=CC=C1.C(=O)(C(F)(F)F)[O-:11].C1=CC=[NH+]C=C1 10,11=11
CCOC(=O)[N:10](CC1=CC=CC=C1)[CH:20](C2=CC=CC=C2)[O+:21](CC)[Al-](CC)(Cl)Cl.C[Si](C)(C)CC#C>>CCOC(=O)[N+:10](=[CH:20]C1=CC=CC=C1)CC2=CC=CC=C2.CC[O:21][Al-](CC)(Cl)Cl.C[Si](C)(C)CC#C 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Sn]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Sn] 10=20,
C[OH+:21][C:20]([NH2:10])(O)OC>>C[OH:21].CO[C:20](=[NH2+:10])O 10=20;20,21=21
[H:20][NH+:21](CC)C(C)(C)[O-].[OH2:10]>>[H:20][OH2+:10].CC[NH:21]C(C)(C)[O-] 10=20;20,21=21
[H:20][CH2:21][C:22](=[N+:23](CC)CC)C#CC.[OH2:10]>>[H:20][OH2+:10].CC[N:23](CC)[C:22](=[CH2:21])C#CC 10=20;22,23=23;20,21=21,22
C[Si-:11](C)(C)([CH2:10][CH2:20][OH:21])F>>C[Si:11](C)(C)F.[CH2:10]=[CH2:20].[OH-:21] 10,11=10,20;20,21=21
CC(=O)O[CH:20]=[O:21].[OH-:10]>>CC(=O)O[CH:20]([OH:10])[O-:21] 10=20;20,21=21
[H:20][NH2+:21]C1(CCCC(=O)C1CC(=O)C)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)CC1C(=O)CCCC1([NH2:21])O 10=20;20,21=21
[H:20][NH3+:21].CCOC(=O)C(C(C(=O)OCC)C(C)(N)[O-:10])C(=O)C.CO>>[H:20][O:10]C(C)(C(C(C(=O)C)C(=O)OCC)C(=O)OCC)N.[NH3:21].CO 10=20;20,21=21
C1[CH2:20][O:21]1.[NH2-:10]>>[CH2:20](C[O-:21])[NH2:10] 10=20;20,21=21
CCO[C:20](C)([OH:10])[O:21]C(=O)CCC=O>>CCO[C:20](=[OH+:10])C.C(CC(=O)[O-:21])C=O 10=20;20,21=21
[CH3:20][O:21][P+:22](C)(C)C.[Br-:10]>>C[P:22](=[O:21])(C)C.[CH3:20][Br:10] 10=20;20,21=21,22
